### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions): extend `tendsto_one_plus_div_rpow_exp`

### PR DESCRIPTION
**Pull request by hanwenzhu**
This PR

- Proves 12 theorems (they are stated separately because of differences in `rexp` vs `cexp` and `pow` vs `rpow`):
    - The limit of `x * log (1 + t/x + o(1/x))` as `x → ∞` is `t` for `t : ℂ` or `ℝ` and `x : ℝ` or `ℕ`.
    - The limit of `(1 + t/x + o(1/x)) ^ x` as `x → ∞` is `exp t` for `t : ℂ` or `ℝ` and `x : ℝ` or `ℕ`.
    - The limit of `(1 + t/x) ^ x` as `x → ∞` is `exp t` for `t : ℂ` or `ℝ` and `x : ℝ` or `ℕ`.
    - (Note: the last row of theorems for `t : ℝ` already exist and are now replaced)
- Renames `plus` to `add` in affected theorems

The little-o theorem for `t : ℂ` is needed for [CLT](https://github.com/RemyDegenne/CLT).

Moves:
- tendsto_one_plus_div_rpow_exp -> Real.tendsto_one_add_div_rpow_exp
- tendsto_one_plus_div_pow_exp -> Real.tendsto_one_add_div_pow_exp
- tendsto_integral_mul_one_plus_inv_smul_sq_pow -> tendsto_integral_mul_one_add_inv_smul_sq_pow

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 1]
```diff
@@ -267,3 +267,180 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
...
+  apply Tendsto.eventually_lt_const (v := 0) hy
+  apply squeeze_zero' (.of_forall fun _ ↦ norm_nonneg _) (g_le_div hg)
+  apply Tendsto.const_div_atTop
+  exact tendsto_abs_atTop_atTop
+
+/-- Converts criterion for `g : ℕ → ℂ` to criterion for `g ∘ (⌊⬝⌋₊) : ℝ → ℂ` -/
+private lemma tendsto_g_comp_floor {g : ℕ → ℂ} {t : ℂ}
+    (hg : Tendsto (fun n ↦ n * g n) atTop (𝓝 t)) :
+    Tendsto (fun x : ℝ ↦ x * g ⌊x⌋₊) atTop (𝓝 t) := by
+  -- for these two lemmas, we copy the proof over ℝ from `g_le_div` and `g_lt`
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:295]: This is the key thing that should inform you that you need to generalize your earlier results. Or alternatively, I think after 
```
apply (hg.comp tendsto_nat_floor_atTop).congr_dist
```
you can just use [Filter.isBoundedUnder_le_mul_tendsto_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Ring/Lemmas.html#Filter.isBoundedUnder_le_mul_tendsto_zero). This should also also you to subsume the next lemma too with this one, if I'm not mistaken.

**Review by j-loreaux — COMMENTED** [review]
These are some nice results, but I strongly encourage refactoring the `private` lemmas you have at the beginning of the code. You need to generalize and make them more reusable. If you get stuck, ping me and I can provide more explicit direction.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 2]
```diff
@@ -267,3 +267,180 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
...
+
+section Limits
+
+/-! Limits of functions of the form `(1 + t/x + o(1/x)) ^ x` as `x → ∞`. -/
+
+open Filter Asymptotics
+open scoped Topology
+
+private lemma g_le_div {g : ℝ → ℂ} {t : ℂ} (hg : Tendsto (fun x ↦ x * g x) atTop (𝓝 t)) :
+    ∀ᶠ x in atTop, ‖g x‖ ≤ (‖t‖ + 1) / |x| := by
```
[the remark this answers is not in the document]
Comment (hanwenzhu) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]: I don't really need the constant. This private lemma is refactored away.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 3]
```diff
@@ -267,3 +267,180 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
...
+  filter_upwards [eventually_ne_atTop 0, hg.norm.eventually_le_const (lt_add_one _)] with x h0 h
+  rw [norm_mul, ← le_div_iff₀' (by simpa using h0)] at h
+  simpa using h
+
+private lemma g_lt {g : ℝ → ℂ} {t : ℂ} (hg : Tendsto (fun x ↦ x * g x) atTop (𝓝 t))
+    (y : ℝ) (hy : 0 < y := by norm_num) : ∀ᶠ x in atTop, ‖g x‖ < y := by
```
[the remark this answers is not in the document]
Comment (hanwenzhu) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]: Thanks for the suggestion! I proved this in `tendsto_zero_of_isBoundedUnder_mul_of_tendsto_cobounded`.

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean (hunk 1 above)
Comment (hanwenzhu) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean]: Thanks for the suggestion, I used this theorem instead.

**Comment by hanwenzhu** [comment]
I have some questions:
1. I implemented `RCLike.tendsto_mul_comp_nat_floor_of_tendsto_mul` (it is RCLike because I need it for both R and C, and it holds for both). However, the current layout makes the imports much larger because this theorem in `Mathlib.Analysis.SpecificLimits.RCLike` also depends on something I added to `Mathlib.Analysis.SpecificLimits.Normed`. I don't know the best layout of these theorems.
2. This `RCLike.tendsto_mul_comp_nat_floor_of_tendsto_mul` theorem is likely generalizable to more general rings in which `Tendsto Nat.cast atTop (cobounded R)`, but I don't know in which rings this holds. `RCLike` is just the most general typeclass I could find, for which this holds.
3. Should the derived limits be in a new module under `Analysis.SpecificLimits`?

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean [hunk 4]
```diff
@@ -267,3 +287,132 @@ lemma hasSum_taylorSeries_neg_log {z : ℂ} (hz : ‖z‖ < 1) :
...
+
+open Filter Asymptotics
+open scoped Topology
+
+namespace Complex
+
+/-- The limit of `x * log (1 + t/x + o(1/x))` as `(x : ℝ) → ∞` is `t` for `t ∈ ℂ`. -/
+lemma tendsto_mul_log_one_add_of_tendsto {g : ℝ → ℂ} {t : ℂ}
+    (hg : Tendsto (fun x ↦ x * g x) atTop (𝓝 t)) :
+    Tendsto (fun x ↦ x * log (1 + g x)) atTop (𝓝 t) := by
```
Comment (dupuisf) [inline Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:303]: Can you fix the docstrings to match the lemma statements here and below?

Comment (hanwenzhu) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:303]: Do you mean something like this? 
```
The limit of `x * log (1 + g x)` as `(x : ℝ) → ∞` equals `t : ℂ`, where `t` is the limit of `x * g(x)`.
```

I am happy to change it in this case. The reason I am using the little-o notation in the docstring is for potentially easier search (I don't know if this makes sense), because that's the notation commonly used in informal language.

**Comment by dupuisf** [comment]
>     2. This `RCLike.tendsto_mul_comp_nat_floor_of_tendsto_mul` theorem is generalizable to more general rings in which `Tendsto Nat.cast atTop (cobounded R)`, but I don't know in which rings this holds. `RCLike` is just the most general typeclass I could find, for which this holds.

I guess this should be true for any ring where `[NormSMulClass R]` holds, no?

File: Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean (hunk 4 above)
Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Complex/LogBounds.lean:303]: Yes, something like that. But if you want a statement that matches the natural language version better, you could probably go with something like
```lean
/-- The limit of `x * log (1 + t/x + o(1/x))` as `(x : ℝ) → ∞` is `t` for `t ∈ ℂ`. -/
lemma tendsto_mul_log_one_add_of_tendsto {g : ℝ → ℂ} {t : ℂ}
    (hg : g =o[atTop] fun x => 1 / x) :
    Tendsto (fun x ↦ x * log (1 + t / x + g x)) atTop (𝓝 t) := by sorry
```

**Comment by hanwenzhu** [comment]
> > ```
> > 2. This `RCLike.tendsto_mul_comp_nat_floor_of_tendsto_mul` theorem is generalizable to more general rings in which `Tendsto Nat.cast atTop (cobounded R)`, but I don't know in which rings this holds. `RCLike` is just the most general typeclass I could find, for which this holds.
> > ```
> 
> I guess this should be true for any ring where `[NormSMulClass R]` holds, no?

Thanks! I think that's true. I will put on awaiting-author and figure this out first.

**Comment by hanwenzhu** [comment]
When I was writing the code for determining the general typeclasses for which `Tendsto Nat.cast atTop (cobounded R)` holds, I noticed one can prove the following:

```lean
-- in this PR
instance [RCLike K] : NormSMulClass ℤ K
```

and once there are instances of `NormSMulClass ℤ` then the following are useful

```lean
-- not in this PR, has name conflict with `norm_zsmul`
theorem norm_zsmul' {α} [SeminormedAddCommGroup α] [NormSMulClass ℤ α] (n : ℤ) (x : α) :
    ‖n • x‖ = |n| * ‖x‖ := by
  rw [norm_smul, Int.norm_eq_abs, Int.cast_abs]

-- not in this PR
theorem norm_nsmul {α} [SeminormedAddCommGroup α] [NormSMulClass ℤ α] (n : ℕ) (x : α) :
    ‖n • x‖ = n * ‖x‖ := by
  simpa using norm_zsmul' n x

-- in this PR
theorem norm_intCast_eq_abs_mul_norm_one (α) [SeminormedRing α] [NormSMulClass ℤ α] (n : ℤ) :
    ‖(n : α)‖ = |n| * ‖(1 : α)‖ := by
  rw [← zsmul_one, norm_zsmul']

-- in this PR
theorem norm_natCast_eq_abs_mul_norm_one (α) [SeminormedRing α] [NormSMulClass ℤ α] (n : ℕ) :
    ‖(n : α)‖ = n * ‖(1 : α)‖ := by
  simpa using norm_intCast_eq_abs_mul_norm_one α n

@[simp]
theorem norm_intCast (α) [SeminormedRing α] [NormOneClass α] [NormSMulClass ℤ α] (n : ℤ) :
    ‖(n : α)‖ = |n| := by
  simp [norm_intCast_eq_abs_mul_norm_one]

@[simp]
theorem norm_natCast (α) [SeminormedRing α] [NormOneClass α] [NormSMulClass ℤ α] (n : ℕ) :
    ‖(n : α)‖ = n := by
  simp [norm_natCast_eq_abs_mul_norm_one]
```

With the correct instances the last two in particular are generalizations of `Complex.norm_intCast` and `(Int|Real|Complex|RCLike).norm_natCast`; the first is a variation of current `norm_zsmul`. I am not sure about the first two because they just look like cheap corollaries of `NormSMulClass ℤ α`. The last two are not included, because they cause name conflict with e.g. `Real.norm_natCast`, and they are not needed for the proof of this PR. I think including them is good for a future PR, but would require a refactor in many places, and would require thinking about generalization to `nnnorm`, `enorm`, `ratCast`, `nnratCast`.

**Comment by dupuisf** [comment]
Looks good, thanks!

bors r+
